US07932282B2
To a solution of 1-(2-chloro-3-pyridinyl)-3-methyl-2-oxo-4-imidazolidinecarboxylic acid (179 mg, 0.484 mmol) and N-ethylmorpholine (0.368 ml, 2.91 mmol) in dichloromethane (5 ml) was added 1-hydroxybenzotriazole hydrate (111 mg, 0.726 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (139 mg, 0.726 mmol) and the mixture was stirred for 10 minutes at room temperature. 1-(2,4-Dichlorophenyl)methanamine (128 mg, 0.726 mmol) was added and the reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane and washed with saturated sodium hydrogen carbonate solution, water and brine and separated by hydrophobic frit and the solution was reduced under vacuum. The residue was purified by SP4 automated silica gel chromatography eluting with 10-100% ethyl acetate in isohexane to give 1-(2-chloro-3-pyridinyl)-N-[(2,4-dichlorophenyl)methyl]-3-methyl-2-oxo-4-imidazolidinecarboxamide (60 mg, 27.6% yield). LC/MS [M+H]+=413, retention time=2.21 minutes

reactant | 1-(2-chloro-3-pyridinyl)-3-methyl-2-oxo-4-imidazolidinecarboxylic acid | 0.484 mmol, 179 mg | ClC1=NC=CC=C1N1C(N(C(C1)C(=O)O)C)=O | C10H10ClN3O3
reactant | N-ethylmorpholine | 2.91 mmol, 0.368 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 1-hydroxybenzotriazole hydrate | 0.726 mmol, 111 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.726 mmol, 139 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-(2,4-Dichlorophenyl)methanamine | 0.726 mmol, 128 mg | ClC1=C(C=CC(=C1)Cl)CN | C7H7Cl2N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-(2-chloro-3-pyridinyl)-N-[(2,4-dichlorophenyl)methyl]-3-methyl-2-oxo-4-imidazolidinecarboxamide | 60 mg, 27.6% yield | ClC1=NC=CC=C1N1C(N(C(C1)C(=O)NCC1=C(C=C(C=C1)Cl)Cl)C)=O | C17H15Cl3N4O2
